US09340498B2
A mixture of 3-aminopyridine (7.14 g, 0.076 mol) and trimethyl orthoformate (40 mL) was refluxed for approximately 60 hr. To the cooled reaction mixture was added water (50 mL) and extracted with ethyl acetate (3×50 mL). The combined organic extracts were washed with brine and dried with MgSO4. The suspension was filtered and concentrated to yield the 3-methoxyiminopyridine as a white solid (9.3 g, 90%).

reactant | 3-aminopyridine | 0.076 mol, 7.14 g | NC=1C=NC=CC1 | C5H6N2
reactant | trimethyl orthoformate | 40 mL | C(OC)(OC)OC | C4H10O3
solvent | water | 50 mL | O | H2O
product | 3-methoxyiminopyridine | 9.3 g, 90% | CON=C1CN=CC=C1 | C6H8N2O
